US06875759B1
Preparation of Benzyl 2-[(N,N′-Di-p-tolyl)guanidinyl]-3-(3-indolyl)propionate
1.0 mmol of tryptophan benzyl ester hydrochloride was dissolved in 20 ml of DMF and 1.1 mmol of diisopropylethylamine was added. After 10 min, 1.0 mmol of 1,3 di-p-tolylcarbodiimide was added to the stirred solution. The reaction mixture was stirred overnight in room temperature. The precipitated solid was filtered off and washed twice with 1 ml of DMF. To the collected filtrate, 50 ml of water was added. The precipitated solid was collected by filtration and washed with water. The solid was dissolved in ethyl acetate and 0.1 ml of conc. HCl was added. The pure product was precipitated from the solution with ethyl ether. Yield of pure compound=79%.

reactant | tryptophan benzyl ester hydrochloride | 1.0 mmol | Cl.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | diisopropylethylamine | 1.1 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,3 di-p-tolylcarbodiimide | 1.0 mmol | C1(=CC=C(C=C1)N=C=NC1=CC=C(C=C1)C)C | C15H14N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Benzyl 2-[(N,N′-Di-p-tolyl)guanidinyl]-3-(3-indolyl)propionate | C1(=CC=C(C=C1)N(C(=N)NC1=CC=C(C=C1)C)C(C(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)C | C33H32N4O2
